US05177106
Step A: Preparation of 4-Nitroso-2,5-xylenol
A solution of 20 mL of 36N sulfuric acid solution in 40 mL of water (60 mL of 12N sulfuric acid) is added to a mixture of 6I g (500 mmol) of 2,5-xylenol and 200 mL of glacial acetic acid. A homogeneous solution is produced initially, but on continued stirring some of the phenol crystallizes. A solution of 35 g (500 mmol) of sodium nitrite in 60 mL of water is added dropwise to the previous mixture over 60 minutes at 5° to 10° C. Stirring is continued for 10 to 15 minutes and the heterogeneous mixture is poured into 1 L of water. The reaction flask is rinsed with water and the solid nitroso derivative collected, washed with water, and dried to a moist cake.

reactant | sulfuric acid | 36N, 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-xylenol | 500 mmol | C=1(C(=CC=C(C1)C)C)O | C8H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium nitrite | 500 mmol, 35 g | N(=O)[O-].[Na+]
solvent | water | 12N, 40 mL | O | H2O
solvent | water | 60 mL | O | H2O
solvent | water | 1 L | O | H2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4-Nitroso-2,5-xylenol | N(=O)C=1C=C(C(=CC1C)O)C | C8H9NO2
